US06284748B1
A solution of 2-thienyllithium in THF (1 mmol) was added to a solution of diethyl chlorophosphate (1 mmol) at −78° C. under nitrogen. After 2 h the reaction was warmed to room temperature and quenched with brine. Extraction and chromatography afforded 2-diethylphosphonothiophene as a yellow oil. TLC: Rf=0.37, 50% EtOAc—hexane.

reactant | 2-thienyllithium | S1C(=CC=C1)[Li]
reactant | THF | 1 mmol | C1CCOC1 | C4H8O
reactant | diethyl chlorophosphate | 1 mmol | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
product | 2-diethylphosphonothiophene | C(C)OP(=O)(OCC)C=1SC=CC1 | C8H13O3PS
